US08476434B2
To a solution of 2-fluoro-5-[3-(2-methylamino-pyrimidin-4-yl)-pyridin-2-yloxy]-benzoyl chloride hydrochloride (86 mg, 0.22 mmol) in THF (2.0 mL) was added (R)-1-cyclohexyl-ethylamine (0.029 mL, 0.20 mmol). The mixture was stirred overnight at RT, quenched with excess NEt3, concentrated and purified by preparative TLC (100% EtOAc) to yield N-((1R)-1-cyclohexylethyl)-2-fluoro-5-((3-(2-(methylamino)-4-pyrimidinyl)-2-pyridinyl)oxy)benzamide. MS m/z=450 [M+1]+. Calc'd for C25H28FN5O2: 449.53.

reactant | 2-fluoro-5-[3-(2-methylamino-pyrimidin-4-yl)-pyridin-2-yloxy]-benzoyl chloride hydrochloride | 0.22 mmol, 86 mg | Cl.FC1=C(C(=O)Cl)C=C(C=C1)OC1=NC=CC=C1C1=NC(=NC=C1)NC
reactant | (R)-1-cyclohexyl-ethylamine | 0.20 mmol, 0.029 mL | C1(CCCCC1)[C@@H](C)N | C8H17N
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | N-((1R)-1-cyclohexylethyl)-2-fluoro-5-((3-(2-(methylamino)-4-pyrimidinyl)-2-pyridinyl)oxy)benzamide | C1(CCCCC1)[C@@H](C)NC(C1=C(C=CC(=C1)OC1=NC=CC=C1C1=NC(=NC=C1)NC)F)=O | C25H28FN5O2
